US05843983
4-Fluoro-2-(2-phenylethyl)phenol
0.91 g of benzaldehyde, 4.00 g of 5-fluoro-2-methoxymethoxybenzyl-triphenylphosphonium chloride (prepared as described in Preparation 8) and 1.28 ml of DBU were allowed to react together in 40 ml of acetonitrile, subsequently treated, and purified by silica gel column chromatography, using a 10:1 by volume mixture of hexane and ethyl acetate as the eluent, in the same manner as described in Preparation 2, to give 2.04 g of an oily substance. 2.03 g of this oily substance were dissolved in 12 ml of a 1:2 by volume mixture of benzene and ethanol, and then 0.30 g of tris-(triphenylphosphine)rhodium(I) chloride were added to the resulting solution. The resulting mixture was stirred under a hydrogen atmosphere at atmospheric pressure and at 60° C. for 8 hours. At the end of this time, the reaction solution was filtered with a Celite (trade mark) filter aid. The filtrate was concentrated by evaporation under reduced pressure, and purified by silica gel column chromatography, using a 10:1 by volume mixture of hexane and ethyl acetate as the eluent. The purified substance was then dissolved in 10 ml of ethyl acetate, and then 10 ml of a 4N solution of hydrogen chloride in ethyl acetate were added to the resulting solution, with ice-cooling. The resulting mixture was allowed to stand at room temperature for 2 hours, after which it was concentrated by evaporation under reduced pressure, and purified by silica gel column chromatography, using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1.45 g (yield 79%) of the title compound as a solid substance.

reactant | benzaldehyde | 0.91 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 5-fluoro-2-methoxymethoxybenzyl-triphenylphosphonium chloride | 4.00 g | [Cl-].FC=1C=CC(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)OCOC
reactant | DBU | 1.28 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethanol | C(C)O | C2H6O
catalyst | tris-(triphenylphosphine)rhodium(I) chloride | 0.30 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 4-Fluoro-2-(2-phenylethyl)phenol | 1.45 g, yield 79% | FC1=CC(=C(C=C1)O)CCC1=CC=CC=C1 | C14H13FO
